US09328067B2
3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)sulfinyl]propanoic acid
To a solution of 3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)sulfanyl]propanoic acid (91 mg, 0.21 mmol) in CH2Cl2 (2 ml) and acetone (2 ml) was added mCPBA (50 mg, ˜0.21 mmol). The reaction was stirred at room temperature for 1 hour and was concentrated. The solid residue was rinsed with Et2O to yield the title compound (88 mg, 94%).

reactant | 3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)sulfanyl]propanoic acid | 0.21 mmol, 91 mg | ClC1=CC(=C(C=C1)SCCC(=O)O)NS(=O)(=O)C1=C(C=C(C=C1)Cl)F | C15H12Cl2FNO4S2
reactant | mCPBA | ˜0.21 mmol, 50 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | acetone | 2 ml | CC(=O)C | C3H6O
product | 3-[(4-chloro-2-{[(4-chloro-2-fluorophenyl)sulfonyl]amino}phenyl)sulfinyl]propanoic acid | 88 mg, 94% | ClC1=CC(=C(C=C1)S(=O)CCC(=O)O)NS(=O)(=O)C1=C(C=C(C=C1)Cl)F | C15H12Cl2FNO5S2
